US07915443B2
N-{[4-({4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}methyl)phenyl] (methyl)-oxido--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
Crude N-{[4-(Bromomethyl)phenyl] (methyl)oxido--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide was dissolved in THF (2 mL). 2-(2-piperazin-1-yl-ethoxy)-ethanol (0.064 g, 0.390 mmol) and TEA (0.054 mL, 0.390 mmol) were then added to the solution and the resulting reaction mixture was allowed to stir for 1 h at rt. The reaction mixture, subsequently, was dissolved in EtOAc and then extracted with H2O (2× mL). The organic layer was dried over anhydrous Na2SO4(s), filtered and concentrated in vacuo. The crude product was purified via column chromatography (gradient eluant mixture of MeOH in EtOAc: 0% to 20% MeOH) to afford the title compound (0.064 g, 49% overall for step 1 and 2).

reactant | N-{[4-(Bromomethyl)phenyl] (methyl)oxido--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | BrCC1=CC=C(C=C1)S(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(=O)C | C28H22BrN3O4S
reactant | 2-(2-piperazin-1-yl-ethoxy)-ethanol | 0.390 mmol, 0.064 g | N1(CCNCC1)CCOCCO | C8H18N2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{[4-({4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}methyl)phenyl] (methyl)-oxido--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OCCOCCN1CCN(CC1)CC1=CC=C(C=C1)S(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(=O)C | C36H39N5O6S
